US07863283B2
(RS)-S-[3-({[6-Methoxy-4-(1,3,4-thiadiazol-2-ylamino)quinazolin-7-yl]oxy}-methyl)phenyl]-S-methylsulphoximide
According to GWP 6, the reaction of (RS)-N-(ethoxycarbonyl)-S-methyl-S-[3-({[6-methoxy-4-(1,3,4-thiadiazol-2-ylamino)quinazolin-7-yl]oxy}methyl)phenyl]-sulphoximide (37 mg, 0.072 mmol) with sodium ethoxide (25 mg, 0.39 mmol) and chromatographic purification (silica gel, hexane, dichloromethane/methanol: 0→15% methanol) gives the desired product in 35% yield (11 mg).

reactant | (RS)-N-(ethoxycarbonyl)-S-methyl-S-[3-({[6-methoxy-4-(1,3,4-thiadiazol-2-ylamino)quinazolin-7-yl]oxy}methyl)phenyl]-sulphoximide | 0.072 mmol, 37 mg | C(C)OC(=O)N=S(=O)(C1=CC(=CC=C1)COC1=C(C=C2C(=NC=NC2=C1)NC=1SC=NN1)OC)C | C22H22N6O5S2
reactant | sodium ethoxide | 0.39 mmol, 25 mg | [O-]CC.[Na+]
reactant | hexane | CCCCCC | C6H14
reactant | dichloromethane methanol | ClCCl.CO
solvent | methanol | CO | CH4O
product | (RS)-S-[3-({[6-Methoxy-4-(1,3,4-thiadiazol-2-ylamino)quinazolin-7-yl]oxy}-methyl)phenyl]-S-methylsulphoximide | 35% yield | COC=1C=C2C(=NC=NC2=CC1OCC=1C=C(C=CC1)S(=O)(=N)C)NC=1SC=NN1 | C19H18N6O3S2
